US05055468
N-(2-Hydroxyethyl)-N-methyl-9,10-Dihydro-9,10-ethanoanthracenylmethylamine (Compound No. 12)
11-Chloromethyl-9,10-dihydro-9,10-ethanoanthracene (45 gm) was combined with 2-hydroxyethylmethylamine (45 gm) in xylene (300 ml) and the mixture heated to reflux for 17 days. The mixture was cooled to room temperature and extracted with 1 N hydrochloric acid (3×100 ml). The combined acid solutions were washed with ether (100 ml), made basic with the addition of 50% sodium hydroxide solution and the mixture extracted with ether (3×100 ml). The combined ether solutions were dried over magnesium sulfate and the ether removed on a rotary evaporator. The residue was distilled (220° C. at 7 mm Hg) to yield a colorless oil. The material was dissolved in ether (200 ml) and treated with 6 N hydrochloric acid in isopropyl alcohol (2 ml). The resulting precipitate was filtered and washed with ether to provide the product. Analytical data are reported in Table I.

reactant | 11-Chloromethyl-9,10-dihydro-9,10-ethanoanthracene | 45 gm | ClCC1CC2C3=CC=CC=C3C1C=1C=CC=CC21 | C17H15Cl
reactant | 2-hydroxyethylmethylamine | 45 gm | OCCNC | C3H9NO
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | isopropyl alcohol | 2 ml | C(C)(C)O | C3H8O
product | N-(2-Hydroxyethyl)-N-methyl-9,10-Dihydro-9,10-ethanoanthracenylmethylamine | OCCN(C)CC1=CC=CC=2C3C4=CC=CC=C4C(C12)CC3 | C20H23NO
